.subckt DIS A1 B1 C1 A2 B2 C2
.model smodel SW(Ron=0.01 Roff=1Meg Vt=0 Vh=0)
sdisA A1 A2 sig 0 smodel
sdisB B1 B2 sig 0 smodel
sdisC C1 C2 sig 0 smodel
vsig sig 0 dc 0 external
rsig sig 0 10000
.ends DIS
