.subckt VTR A1 B1 C1
*VTR does not do anything, but is needed for substation netlist consistency
ivtrA A1 0 dc 0
ivtrB B1 0 dc 0
ivtrC C1 0 dc 0
.ends VTR
