.subckt load A1 B1 C1 rload=1000
* load TODO: add capacitor and inductor, maybe nonlineair load, or inverse (constant power)
r1 A1 0 {rload}
r2 B1 0 {rload}
r3 C1 0 {rload}
.ends load
